US08003654B2
8) Synthesis of ethyl-pyrimidin-5-ylmethyl-amine
prepared by reaction of the 5-chloromethyl-pyrimidine (Russell M. G. N et al J. Med. Chem. 2005, 48, 5, 1367-1383) with 2M ethylamine in THF.

reactant | 5-chloromethyl-pyrimidine | ClCC=1C=NC=NC1 | C5H5ClN2
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-pyrimidin-5-ylmethyl-amine | C(C)NCC=1C=NC=NC1 | C7H11N3
